US06562828B1
4-[2-(2-Acetyl-1,2,3,4-tetrahydroisoquinolin-7-ylthio)ethyl]-4-ethoxycarbonylpiperidine-1-carboxylic Acid tert-Butyl Ester
Crude crystals (1.26 g) of 2-acetyl-1,2,3,4-tetrahydroisoquinoline-7-thiol were dissolved in dimethylformamide (15 ml) and thereto were added 60% sodium hydride (243 mg) and 4-ethoxycarbonyl-4-(2-iodoethyl)piperidine-1-carboxylic acid tert-butyl ester (1 g), and the mixture was stirred at 70° C. for 1 hour. After completion of the reaction, water was added and the mixture was extracted with ethyl acetate and washed with saturated brine. The organic layer was dried over anhydrous magnesium sulfate and the solvent was evaporated. The obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate=3:7) and dried under reduced pressure to give the title compound (535 mg).

reactant | 2-acetyl-1,2,3,4-tetrahydroisoquinoline-7-thiol | C(C)(=O)N1CC2=CC(=CC=C2CC1)S | C11H13NOS
reactant | sodium hydride | 243 mg | [H-].[Na+]
reactant | 4-ethoxycarbonyl-4-(2-iodoethyl)piperidine-1-carboxylic acid tert-butyl ester | 1 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(CCI)C(=O)OCC | C15H26INO4
reactant | water | O | H2O
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 4-[2-(2-Acetyl-1,2,3,4-tetrahydroisoquinolin-7-ylthio)ethyl]-4-ethoxycarbonylpiperidine-1-carboxylic Acid tert-Butyl Ester | 535 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(=O)OCC)CCSC1=CC=C2CCN(CC2=C1)C(C)=O | C26H38N2O5S
